US07247645B2
2) Synthesis of 2-cyanoethyl 2-acetyl-3-(3-chlorophenyl)acrylate:
1.00 g (6.45 mmol) of 2-cyanoethyl acetoacetate and 730 μl (6.44 mmol) of 3-chlorobenzaldehyde were stirred in the presence of a catalytic amount of acetic acid and piperidine in 100 ml of 2-propanol at room temperature overnight. The solvent was evaporated under reduced pressure to obtain the title compound.

reactant | 2-cyanoethyl acetoacetate | 6.45 mmol, 1.00 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
reactant | 3-chlorobenzaldehyde | 6.44 mmol, 730 μl | ClC=1C=C(C=O)C=CC1 | C7H5ClO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | 2-propanol | 100 ml | CC(C)O | C3H8O
product | 2-cyanoethyl 2-acetyl-3-(3-chlorophenyl)acrylate | quantitative yield | C(C)(=O)C(C(=O)OCCC#N)=CC1=CC(=CC=C1)Cl | C14H12ClNO3
